US05624935
6-Ethoxy-2-methylamino-3-nitropyridine
A procedure similar to that described in Preparation 88 was repeated, except that 6.00 g of 6-chloro-2-methylamino-3-nitropyridine (prepared as described in Preparation 66), 1.54 g of sodium hydride (as a 55% by weight dispersion in mineral oil), 2.1 ml of ethanol and 150 ml of dimethylformamide were used. After working up the product as described in Preparation 88, the resulting crude product was crystallized by trituration with ethanol, to give 5.10 g of the title compound, melting at 101° C.

reactant | 6-chloro-2-methylamino-3-nitropyridine | 6.00 g | ClC1=CC=C(C(=N1)NC)[N+](=O)[O-] | C6H6ClN3O2
reactant | sodium hydride | 1.54 g | [H-].[Na+]
reactant | ethanol | 2.1 ml | C(C)O | C2H6O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 6-Ethoxy-2-methylamino-3-nitropyridine | 5.10 g | C(C)OC1=CC=C(C(=N1)NC)[N+](=O)[O-] | C8H11N3O3
